US07638536B2
To a solution of 1.5 g of 3-chloro-4-hydroxybenzoic acid methyl ester in 20 ml of THF, 1.8 ml of 1-tert-butoxy-2-propanol, 3.16 g of triphenylphosphine, and 1.9 ml of diethylazodicarboxylate were added, and the mixture was stirred at room temperature for 1 hour. After evaporation of the solvent under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluent: hexane-EtOAc=100:1˜5:1) to obtain 2.3 g of 4-(1-tert-butoxy-2-propoxy)-3-chlorobenzoic acid methyl ester.

reactant | 3-chloro-4-hydroxybenzoic acid methyl ester | 1.5 g | COC(C1=CC(=C(C=C1)O)Cl)=O | C8H7ClO3
reactant | triphenylphosphine | 3.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.9 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-tert-butoxy-2-propanol | 1.8 ml | C(C)(C)(C)OCC(C)O | C7H16O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(1-tert-butoxy-2-propoxy)-3-chlorobenzoic acid methyl ester | 2.3 g | COC(C1=CC(=C(C=C1)OC(COC(C)(C)C)C)Cl)=O | C15H21ClO4
